US09238639B2
Methyl(4-fluoro-6-((2-methyl-6-(trifluoromethyl)pyridin-3-yl)methoxy)-1-benzothiophen-3-yl)acetate
To a mixture of tri-n-butylphosphine (0.655 mL), (2-methyl-6-(trifluoromethyl)pyridin-3-yl)methanol (167 mg), methyl(4-fluoro-6-hydroxy-1-benzothiophen-3-yl)acetate (210 mg) and THF (dry) (15 mL) was added ADDP (662 mg, 2.62 mmol) at room temperature. The mixture was stirred at room temperature for 2 h and then concentrated in vacuo. To the residue was added IPE and the insoluble materials were removed by filtration. The filtrate was concentrated in vacuo. The residue was purified by silica gel column chromatography (NH, EtOAc/hexane) and silica gel column chromatography (EtOAc/hexane) to give the title compound (310 mg). The crystals were recrystallized from acetone-hexane.

reactant | tri-n-butylphosphine | 0.655 mL | C(CCC)P(CCCC)CCCC | C12H27P
reactant | (2-methyl-6-(trifluoromethyl)pyridin-3-yl)methanol | 167 mg | CC1=NC(=CC=C1CO)C(F)(F)F | C8H8F3NO
reactant | methyl(4-fluoro-6-hydroxy-1-benzothiophen-3-yl)acetate | 210 mg | COC(CC1=CSC2=C1C(=CC(=C2)O)F)=O | C11H9FO3S
reactant | ADDP | 2.62 mmol, 662 mg | C1CCN(CC1)C(=O)N=NC(=O)N2CCCCC2 | C12H20N4O2
solvent | THF | 15 mL | C1CCOC1 | C4H8O
product | Methyl(4-fluoro-6-((2-methyl-6-(trifluoromethyl)pyridin-3-yl)methoxy)-1-benzothiophen-3-yl)acetate | 310 mg | COC(CC1=CSC2=C1C(=CC(=C2)OCC=2C(=NC(=CC2)C(F)(F)F)C)F)=O | C19H15F4NO3S
